US08431569B2
Step 3. Dicyclopropylmethanaminium chloride
To a stirred solution of N-(dicyclopropylmethyl)-2-methylpropane-2-sulfinamide (86 g, 400 mmol) in MeOH (200 mL) was added 4 N HCl in dioxane (200 mL, 800 mmol). The reaction mixture was left to stir for 30 min, concentrated to half the volume, and diluted with Ether. The white precipitate was filtered through a fritted glass, washed with ether, and dried under high-vacuum to give the title compound. 1H NMR (600 MHz, CD3SOCD3) δ 8.17 (br s, 3H); 1.89 (t, 1H); 1.02 (m, 2H); 0.54 (m, 2H); 0.48 (m, 2H); 0.39 (m, 4H).

reactant | N-(dicyclopropylmethyl)-2-methylpropane-2-sulfinamide | 400 mmol, 86 g | C1(CC1)C(NS(=O)C(C)(C)C)C1CC1 | C11H21NOS
reactant | HCl | 4 N | Cl | ClH
reactant | dioxane | 800 mmol, 200 mL | O1CCOCC1 | C4H8O2
solvent | MeOH | 200 mL | CO | CH4O
product | Dicyclopropylmethanaminium chloride | [Cl-].C1(CC1)C([NH3+])C1CC1 | InChI=1S/C7H13N.ClH/c8-7(5-1-2-5)6-3-4-6;/h5-7H,1-4,8H2;1H
